US07582633B2
Step 2: 4-{2-[4-(2-Bromo-5-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2-methylbut-3-yn-2-ol
Into a flame-dried 25-mL sealable pressure flask equipped with a magnetic stirbar and under nitrogen was added 5-bromo-2-[4-(2-bromo-5-fluorophenoxy)piperidin-1-yl]pyrimidine (500 mg, 1.16 mmol), copper(I) iodide (44 mg, 0.23 mmol), Pd(PPh3)4 (100 mg, 0.09 mmol) and potassium carbonate (400 mg, 2.90 mmol). The flask was evacuated under vacuum (1 mm Hg) and backfilled with nitrogen (repeated 3 times). The solids were taken up in dimethoxyethane (4 mL) and water (4 mL) and degassed for 10 min with a stream of nitrogen. The contents of the flask where then heated to 90° C. and 2-methyl-3-butyn-2-ol (0.135 mL, 1.39 mmol) was added and the mixture heated at 90° C. for 1 h. The mixture was cooled, poured into a 250-mL separatory funnel containing water (125 mL) and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and the solvent was evaporated under reduced pressure. Purification by column chromatography through silica gel, eluting with 10% EtOAc in hexanes to 50% EtOAc in hexanes as a gradient gave the desired product as a beige solid.

reactant | 5-bromo-2-[4-(2-bromo-5-fluorophenoxy)piperidin-1-yl]pyrimidine | 1.16 mmol, 500 mg | BrC=1C=NC(=NC1)N1CCC(CC1)OC1=C(C=CC(=C1)F)Br | C15H14Br2FN3O
reactant | potassium carbonate | 2.90 mmol, 400 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-3-butyn-2-ol | 1.39 mmol, 0.135 mL | CC(C)(C#C)O | C5H8O
catalyst | copper(I) iodide | 0.23 mmol, 44 mg | [Cu]I
catalyst | Pd(PPh3)4 | 0.09 mmol, 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 125 mL | O | H2O
product | 4-{2-[4-(2-Bromo-5-fluorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2-methylbut-3-yn-2-ol | BrC1=C(OC2CCN(CC2)C2=NC=C(C=N2)C#CC(C)(O)C)C=C(C=C1)F | C20H21BrFN3O2
